US04001297
1-Cyclopropancarboamide-2-(3-methoxycarbonyl-2-thioureido)-benzene
3.5g (0.033 mole) of cyclopropylcarbonylchloride were added slowly to 5.6g (0.025 mole) of 1-(2-aminophenyl)-3-methoxycarbonyl-2-thiourea in 30ml of tonuene at room temperature under agitation and the mixture was kept on reflux condition for an hour. The reaction mixture was cooled to room temperature and filtered with suction. The recovered colorless crystals were washed with water and dried. Then, by recrystallization of the crystals from the mixture of methanol and acetone, 4.2g of the crystals having the decomposition point of 191° - 192° C. were obtained.

reactant | cyclopropylcarbonylchloride | 0.033 mole, 3.5g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 1-(2-aminophenyl)-3-methoxycarbonyl-2-thiourea | 0.025 mole, 5.6g | NC1=C(C=CC=C1)NC(=S)NC(=O)OC | C9H11N3O2S
product | 1-Cyclopropancarboamide 2-(3-methoxycarbonyl-2-thioureido)-benzene | C1(CC1)C(=O)N.COC(=O)NC(NC1=CC=CC=C1)=S | InChI=1S/C9H10N2O2S.C4H7NO/c1-13-9(12)11-8(14)10-7-5-3-2-4-6-7;5-4(6)3-1-2-3/h2-6H,1H3,(H2,10,11,12,14);3H,1-2H2,(H2,5,6)
